US07816540B2
(4-{2-[2-(4-Chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-2-cyclohexyl-acetylamino}-3-fluoro-phenoxy)-acetic acid
To a solution of (4-{2-[2-(4-chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-2-cyclohexyl-acetylamino}-3-fluoro-phenoxy)-acetic acid tert-butyl ester (120 mg, 0.19 mmol) in dichloromethane (5 ml) was added trifluoroacetic acid (1.5 ml). After 2 h, the solvent was removed under reduced pressure. The resulting oil (78 mg, 71%) solidified upon standing in the refrigerator.

reactant | (4-{2-[2-(4-chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-2-cyclohexyl-acetylamino}-3-fluoro-phenoxy)-acetic acid tert-butyl ester | 0.19 mmol, 120 mg | C(C)(C)(C)OC(COC1=CC(=C(C=C1)NC(C(C1CCCCC1)N1C(=NC2=C1C=C(C(=C2)F)F)C2=CC=C(C=C2)Cl)=O)F)=O | C33H33ClF3N3O4
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (4-{2-[2-(4-Chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-2-cyclohexyl-acetylamino}-3-fluoro-phenoxy)-acetic acid | ClC1=CC=C(C=C1)C1=NC2=C(N1C(C(=O)NC1=C(C=C(OCC(=O)O)C=C1)F)C1CCCCC1)C=C(C(=C2)F)F | C29H25ClF3N3O4
